US09085555B2
C. Indolizine-1,3-dicarboxylic acid 3-benzyl ester
A solution of indolizine-1,3-dicarboxylic acid 3-benzyl ester 1-tert-butyl ester (400 mg, 1.14 mmol) and TFA (872 μl, 11.4 mmol) in CH2Cl2 (10 mL) was stirred at RT overnight. The reaction mixture was concentrated and the crude solid was taken-up in a mixture of MeOH and CH2Cl2, the precipitate was filtered-off and washed with a minimum of MeOH to give the desired compound as a white powder. The filtrate was concentrated and purified by flash column chromatography on silica gel (CH2Cl2 to CH2Cl2/MeOH 95:5) to give again the desired compound. TLC, Rf (CH2Cl2/MeOH 9:1)=0.6; MS (LC/MS): 296.0 [M+H]+ 294.1 [M−H]−; tR (HPLC conditions a): 3.64 min.

reactant | indolizine-1,3-dicarboxylic acid 3-benzyl ester 1-tert-butyl ester | 1.14 mmol, 400 mg | C(C)(C)(C)OC(=O)C=1C=C(N2C=CC=CC12)C(=O)OCC1=CC=CC=C1 | C21H21NO4
reactant | TFA | 11.4 mmol, 872 μl | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | Indolizine-1,3-dicarboxylic acid 3-benzyl ester | C(C1=CC=CC=C1)OC(=O)C1=CC(=C2C=CC=CN12)C(=O)O | C17H13NO4
